US09145392B2
5-Bromo-6-{4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine (“3”)
The title compound was prepared in an analogous manner as 5-Bromo-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine using 4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidine instead of 4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1h-imidazol-2-yl]-piperidine. LC-MS: (M+1=467, obsd.=467).

reactant | 5-Bromo-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | BrC=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C)N | C20H19BrF4N6
reactant | 4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidine | FC(C=1C=C(C=CC1)C=1N=C(NC1)C1CCNCC1)(F)F | C15H16F3N3
product | 5-Bromo-6-{4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | BrC=1C(=NC=NC1N1CCC(CC1)C=1NC=C(N1)C1=CC(=CC=C1)C(F)(F)F)N | C19H18BrF3N6
